data/mechanisms/records/IMS8-EQT8.2c.json
{"mechanism_id": "IMS8-EQT8.2c", "species": [{"species_id": "propyl_iodide_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][I+:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "iodine_cation", "mapped_smiles": "[I+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 2, "spin_multiplicity": 3, "detected": false}, {"species_id": "propyl_radical", "mapped_smiles": "[CH3:1][CH2:2][CH2:3]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["propyl_iodide_radical_cation"]}, {"state_id": "state_products", "species_ids": ["iodine_cation", "propyl_radical"]}], "steps": [{"step_id": "step_sigma", "from_state": "state_precursor", "to_state": "state_products", "step_class": "sigma_dissociation", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_sigma", "support_type": "textbook_proposed", "locator": {"page": 166, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3"}, "confidence": 0.75, "curator_note": "Table 8.2, row 3 (OE+. one-bond sigma cleavage, AB-CD with the +. localised on the heteroatom D). Book draws 0 arcs -- only the '+.' over the I of the printed example C3H7-I+.; the two electron_moves are the implied C-I homolysis (one bond electron -> propyl carbon radical; the other -> the iodine, pairing its odd electron). Charge stays on iodine (I+, m/z 127) because of iodine's low ionisation energy. Atomic I+ is the (3)P2 triplet -> radical_electrons=2. No m/z / intensity printed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 169.9587, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_I", "species_id": "iodine_cation", "step_id": "step_sigma", "observed_mz": 126.9039, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
